US07179934B2
(4S,5R)-3-((S)-2-Ethyl-pentanoyl)-4-methyl-5-phenyl-oxazolidin-2-one
To a −78° C. stirred solution of the (4S,5R)-4-Methyl-3-pentanoyl-5-phenyl-oxazolidin-2-one (9.20 g, 35.2 mmol) in dry THF (150 mL) was added NaHMDS (42.2 mL, 1.0 M in THF) dropwise. After 1 hour, ethyl trifluoromethanesulfonate (5.93 mL, 45.7 mmol) was added dropwise and the reaction was stirred at −78° C. for an additional 2 hours. The reaction was warmed to −30° C. for 30 minutes and quenched with sat. NH4Cl. The layers were separated and the aqueous layer was extracted with EtOAc (3×40 mL). The organic extracts were combined and washed with brine (2×40 mL). The organic phase was dried over MgSO4, filtered, and concentrated under reduced pressure to yield 8.05 g of crude product.

reactant | (4S,5R)-4-Methyl-3-pentanoyl-5-phenyl-oxazolidin-2-one | 35.2 mmol, 9.20 g | C[C@@H]1N(C(O[C@@H]1C1=CC=CC=C1)=O)C(CCCC)=O | C15H19NO3
reactant | NaHMDS | 1.0 M, 42.2 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | ethyl trifluoromethanesulfonate | 45.7 mmol, 5.93 mL | FC(S(=O)(=O)OCC)(F)F | C3H5F3O3S
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | (4S,5R)-3-((S)-2-Ethyl-pentanoyl)-4-methyl-5-phenyl-oxazolidin-2-one | 8.05 g | C(C)[C@H](C(=O)N1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)CCC | C17H23NO3
